US07737166B2
6-(2-Bromoacetyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-79)
2-Cyclopropyl-6-[1-(ethoxy)ethenyl]-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-78) (9.34 g, 30.1 mmol) was dissolved in tetrahydrofuran (450 ml), then water (27 ml) and N-bromosuccinimide (5.73 g, 31.58 mmol) were added all at a time, followed by stirring at room temperature for 45 minutes. After the reaction, the solvent was evaporated away under reduced pressure, followed by dilution with ethyl acetate and by washing with aqueous sodium thiosulfate solution and saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography and eluted with a mixed solvent of n-hexane/ethyl acetate (4:1, v/v) to obtain the intended product (9.63 g, 95%) as a white solid.

reactant | 2-Cyclopropyl-6-[1-(ethoxy)ethenyl]-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 30.1 mmol, 9.34 g | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C(=C)OCC)C)C#N | C16H15FN2O2
reactant | water | 27 ml | O | H2O
reactant | N-bromosuccinimide | 31.58 mmol, 5.73 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | 6-(2-Bromoacetyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 9.63 g, 95% | BrCC(=O)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C14H10BrFN2O2
